US07868030B2
i) 3-Cyclopropyl-benzenesulfonyl chloride
Bromo-3-cyclopropyl-benzene (1.0 g, 5.1 mmol) [prep.: J. Org. Chem. vol. 41, 2262-6 (1976)] was dissolved in dry THF/diethyl ether (1:1, 30 ml) under an argon atmosphere and cooled to −78° C. BuLi (1.6 M in hexanes, 3.2 ml, 5.1 mmol) was added dropwise and the reaction mixture was further stirred at low temperature for 15 min. This reaction mixture was added via cannula to a SO2 gas saturated solution of diethyl ether (20 ml) precooled to −78° C. The reaction mixture was stirred overnight at room temperature and concentrated under reduced pressure. The crude intermediate was suspended in n-hexane (4A sieves dried, 20 ml) and chilled (ice-water). A solution of sulfuryl chloride (0.3 ml, 3.6 mmol) in dry hexane (8 ml) was added dropwise to the stirred suspension and then the cold bath was removed. After 90 min at room temperature the reaction mixture was filtered (Speedex pad) and the filtrate was concentrated under reduced pressure to yield a yellow oil: 0.6 g, (67%) GC-MS: M=216.

reactant | Bromo-3-cyclopropyl-benzene | 5.1 mmol, 1.0 g | BrC1=CC(=CC=C1)C1CC1 | C9H9Br
reactant | BuLi | 5.1 mmol, 1.6 M, 3.2 ml | [Li]CCCC
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | sulfuryl chloride | 3.6 mmol, 0.3 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF diethyl ether | 30 ml | C1CCOC1.C(C)OCC
solvent | hexane | 8 ml | CCCCCC | C6H14
product | 3-Cyclopropyl-benzenesulfonyl chloride | C1(CC1)C=1C=C(C=CC1)S(=O)(=O)Cl | C9H9ClO2S
